US04950467
To a solution of cyano acetic acid in 200 ml of 10% aqueous potassium hydroxide was added trans-cinnamaldehyde (26 g). The mixture was stirred at 35° C. for 2 hrs. and acidified with 100 ml of conc. hydrochloric acid. The solid was collected and washed to yield 2-cyano-5-phenyl-2,4-pentadienoic acid (36 g, 90% yield), m.p. 196° C. Recrystallized from ethanol yielded pure product, m.p. 211° C.

reactant | cyano acetic acid | C(#N)CC(=O)O | C3H3NO2
reactant | trans-cinnamaldehyde | 26 g | C(\C=C\C1=CC=CC=C1)=O | C9H8O
reactant | hydrochloric acid | 100 ml | Cl | ClH
solvent | potassium hydroxide | 200 ml | [OH-].[K+]
product | 2-cyano-5-phenyl-2,4-pentadienoic acid | 36 g, 90% yield | C(#N)C(C(=O)O)=CC=CC1=CC=CC=C1 | C12H9NO2
